US07737166B2
N-[2-(tert-Butoxycarbonylmethylamino)ethyl]-N-methylacetamide (I-203)
Under nitrogen atmosphere, acetic anhydride (1.16 ml, 12.3 mmol) and triethylamine (2.28 ml, 16.4 mmol) were added to a dichloromethane (41 ml) solution of [2-(tert-butoxycarbonylmethylamino)ethyl]methylamine (I-202) (1.54 g, 8.18 mmol) with cooling with ice, followed by stirring at room temperature for 15 hours. The solvent was evaporated away under reduced pressure, then the resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (10:1, v/v) gave the entitled compound (1.88 g, 100%) as a colorless oil.

reactant | acetic anhydride | 12.3 mmol, 1.16 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 16.4 mmol, 2.28 ml | C(C)N(CC)CC | C6H15N
reactant | [2-(tert-butoxycarbonylmethylamino)ethyl]methylamine | 8.18 mmol, 1.54 g | C(C)(C)(C)OC(=O)CNCCNC | C9H20N2O2
solvent | dichloromethane | 41 ml | ClCCl | CH2Cl2
product | N-[2-(tert-Butoxycarbonylmethylamino)ethyl]-N-methylacetamide | 1.88 g, 100% | C(C)(C)(C)OC(=O)CNCCN(C(C)=O)C | C11H22N2O3
